US07344702B2
Synthesis of 2-tert-butyl-4-p-toluenesulfonyloxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone
To a 15 ml round bottom flask charged with 2-tert-butyl-4-hydoxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone (1.0 g, 2.77 mmol) is added pyridine. p-Toluenesulfonyl chloride (0.79 g, 4.15 mmol) is then added to it and the mixture stirred for 4 hours. The reaction mixture is diluted with ethyl acetate, washed with 5% copper sulfate solution and then with water and dried. After removing the solvent on the rotary evaporator the crude is purified by flash chromatography using (silica gel; ethyl acetate/hexanes) as the eluting mixture to give the product.

reactant | 2-tert-butyl-4-hydoxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone | 2.77 mmol, 1.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)CO)SCC1=CC=C(C=C1)C(C)(C)C | C20H28N2O2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | p-Toluenesulfonyl chloride | 4.15 mmol, 0.79 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-4-p-toluenesulfonyloxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)COS(=O)(=O)C1=CC=C(C=C1)C)SCC1=CC=C(C=C1)C(C)(C)C | C27H34N2O4S2
